US07538121B2
N-(Isoquinolin-5-yl)-3′-methyl-1,1′-biphenyl-4-carboxamide
To a solution of 4-bromo-N-isoquinolin-5-ylbenzamide (D94) (50 mg, 0.153 mmol) in toluene (2 ml) and ethanol (0.4 ml) under an argon atmosphere was added 3-methyl-phenylboronic acid (21 mg, 0.153 mmol), 2M sodium carbonate solution (0.15 ml) and tetrakis(triphenylphosphine)palladium (0) (5 mg, 0.05 mmol). The reaction was heated at reflux for 18 h, then cooled to room temperature and diluted with EtOAc. The mixture was washed with sat. aq. sodium bicarbonate solution and water, dried over MgSO4 and concentrated to give the crude product which was purified by SPE column chromatography. Elution with 50% EtOAc/40-60° C. petroleum ether gave the title compound as an off-white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.32 (s, 1H), 8.62 (d, 1H), 8.34 (d, 1H), 8.22 (br, 1H), 8.07 (d, 2H), 7.90, (d, 1H), 7.78 (d, 2H), 7.70 (m, 3H), 7.47 (m, 2H), 7.40 (t, 1H), 2.47 (s, 3H).

reactant | 4-bromo-N-isoquinolin-5-ylbenzamide | 0.153 mmol, 50 mg | BrC1=CC=C(C(=O)NC2=C3C=CN=CC3=CC=C2)C=C1 | C16H11BrN2O
reactant | 3-methyl-phenylboronic acid | 0.153 mmol, 21 mg | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | sodium carbonate | 2M, 0.15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.4 ml | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(Isoquinolin-5-yl)-3′-methyl-1,1′-biphenyl-4-carboxamide | C1=NC=CC2=C(C=CC=C12)NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C | C23H18N2O
